US06303194B1
30.00 g of bicyclohexyl-4,4′-dione and 3.89 g of tetrabutylammonium fluoride trihydrate are dissolved in 350 ml of THF, and 30.33 g of trimethylsiylacetylene are added dropwise at RT. The reaction mixture is stirred for 2 days, a suspension of 44.86 g of potassium fluoride in 160 ml of methanol is subsequently added, and the mixture is stirred for a further 3 days. Conventional work-up gives 4,4′-diethynylbicyclohexyl-4,4′-diol.

reactant | bicyclohexyl-4,4′-dione | 30.00 g | C1(CCC(CC1)=O)C1CCC(CC1)=O | C12H18O2
reactant | tetrabutylammonium fluoride trihydrate | 3.89 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | potassium fluoride | 44.86 g | [F-].[K+]
reactant | THF | 350 ml | C1CCOC1 | C4H8O
solvent | methanol | 160 ml | CO | CH4O
product | 4,4′-diethynylbicyclohexyl-4,4′-diol | C(#C)C1(CCC(CC1)C1CCC(CC1)(O)C#C)O | C16H22O2
